US07700633B2
D. 3,7-Dihydroxynaphthalene-2-carboxylic acid methyl ester
To a solution of 3,7-dihydroxynaphthalene-2-carboxylic acid (4.0 g, 19.6 mmol) in MeOH (80 mL) is added thionyl chloride (10 mL, 136 mmol) and it is stirred at RT for 48 h. The solvent is removed and purified to give the title compound.

reactant | 3,7-dihydroxynaphthalene-2-carboxylic acid | 19.6 mmol, 4.0 g | OC=1C(=CC2=CC(=CC=C2C1)O)C(=O)O | C11H8O4
reactant | thionyl chloride | 136 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 80 mL | CO | CH4O
product | 3,7-Dihydroxynaphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC(=CC=C2C=C1O)O | C12H10O4
